US07507760B2
Synthesis of (R)-N-Methyl-3,3-diphenyl-N-(1-pyridin-4-ylmethyl-pyrrolidin-3-yl)-propionamide
To a solution of N-methyl-3,3-diphenyl-N-pyrrolidin-3-yl-propionamide(0.45 g, 1.46 mmol) in CH2Cl2 (10 ml) was added 4-pyridinecarboxaldehyde(0.14 ml, 1.46 mmol), sodium triacetoxyborohydride(0.4 g, 1.89 mmol) and ACOH (0.17 ml, 2.92 mmol). The resulting solution was stirred at room temperature under nitrogen overnight. The reaction mixture was quenched with saturated NaHCO3 (4 ml), and product was extracted with EtOAc (3×30 ml). Drying the EtOAc extract over MgSO4 and removal of solvent under reduced pressure followed by column chromatography using acetone:EtOAc (1:1) gives the desired product in good yield.

reactant | N-methyl-3,3-diphenyl-N-pyrrolidin-3-yl-propionamide | 1.46 mmol, 0.45 g | CN(C(CC(C1=CC=CC=C1)C1=CC=CC=C1)=O)C1CNCC1 | C20H24N2O
reactant | 4-pyridinecarboxaldehyde | 1.46 mmol, 0.14 ml | N1=CC=C(C=C1)C=O | C6H5NO
reactant | sodium triacetoxyborohydride | 1.89 mmol, 0.4 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | CH2Cl2 | 10 ml | C(Cl)Cl | CH2Cl2
product | (R)-N-Methyl-3,3-diphenyl-N-(1-pyridin-4-ylmethyl-pyrrolidin-3-yl)-propionamide | CN(C(CC(C1=CC=CC=C1)C1=CC=CC=C1)=O)[C@H]1CN(CC1)CC1=CC=NC=C1 | C26H29N3O
